US06066736
Synthesis of methyl 3-methoxy-5-methylpyrazine-2-carboxylate
Under argon, 5 g (19.3 mmol) of 2-aminomalononitrile-4-toluenesulfonate was initially charged in 50 g of methanol. 4.09 g (22.7 mmol) of sodium methoxide solution (30%) was added and the mixture was stirred at 2° C. for 2 hours. After neutralization with 0.204 g (3.4 mmol) of acetic acid, 3.6 g (19.9 mmol) of methylglyoxal solution (40%) was added. The mixture was stirred at 40° C. for 2 hours and then, at 20° C., 9.2 g (80 mmol) of hydrochloric acid (32%) was added and the mixture was stirred at 20° C. for 6 hours. The solvent was distilled off and the methyl 3-methoxy-5-methylpyrazine-2-carboxylate was extracted with methylene chloride. This gave 1 g of methyl 3-methoxy-5-methylpyrazine-2-carboxylate. The yield was 27 percent. Other data concerning the title product was:

reactant | 2-aminomalononitrile 4-toluenesulfonate | 19.3 mmol, 5 g | NC(C#N)C#N.C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | sodium methoxide | 22.7 mmol, 4.09 g | C[O-].[Na+]
reactant | acetic acid | 3.4 mmol, 0.204 g | C(C)(=O)O | C2H4O2
reactant | methylglyoxal | 19.9 mmol, 3.6 g | CC(=O)C=O | C3H4O2
reactant | hydrochloric acid | 80 mmol, 9.2 g | Cl | ClH
solvent | methanol | 50 g | CO | CH4O
product | methyl 3-methoxy-5-methylpyrazine-2-carboxylate | yield was 27 percent | COC=1C(=NC=C(N1)C)C(=O)OC | C8H10N2O3
